US07217492B2
30 g of 4-hydroxyphenyl diphenylsulfonium nonafluoro-n-butanesulfonate was dissolved in 300 g of dichloromethane in a reaction flask, in which the atmosphere was replaced with nitrogen. 17.9 g of n-butanesulfonyl chloride and 10.5 g of triethylamine were added in this order. The mixture was stirred for 20 minutes at room temperature. After the addition of 100 g of ion-exchanged water, the mixture was transferred to a separatory funnel, shaken, and allowed to stand still. The water layer was removed. After the addition of 300 ml of distilled water, the solution was shaken and allowed to stand still. The water layer was removed. The resulting dichloromethane solution was dried using anhydrous magnesium sulfate and filtered. After evaporating dichloromethane from the dichloromethane solution, the residual liquid was dried under reduced pressure to obtain 26.7 g of 4-n-butanesulfonyloxyphenyl diphenylsulfonium nonafluoro-n-butanesulfonate. This compound is indicated as “acid generator (A-1)”.

reactant | 4-hydroxyphenyl diphenylsulfonium nonafluoro-n-butanesulfonate | 30 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butanesulfonyl chloride | 17.9 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 300 g | ClCCl | CH2Cl2
product | 4-n-butanesulfonyloxyphenyl diphenylsulfonium nonafluoro-n-butanesulfonate | 26.7 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.C(CCC)S(=O)(=O)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H23O3S2.C4HF9O3S/c1-2-3-18-27(23,24)25-19-14-16-22(17-15-19)26(20-10-6-4-7-11-20)21-12-8-5-9-13-21;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-17H,2-3,18H2,1H3;(H,14,15,16)/q+1;/p-1
